US07022707B2
(R)-2-Ethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(2-fluoro-5-iodo-benzyl) ester
A mixture of 2-fluoro-5-iodo-benzylalcohol (5.0 g, 19.8 mM) and (R)-4-chlorocarbonyl-3-ethyl-piperazine-1-carboxylic acid tert-butyl ester (5.5 g, 19.8 mM) in dimethylformamide (70 mL) was added slowly to a suspension of sodium hydride (1.3 g, 55%, 1.89 mM) in dimethylformamide (30 mL). The mixture was stirred at room temperature for 5 h and partitioned between water and diethylether. Organic phases were pooled, washed with brine and dried with Na2SO4 to yield after evaporation a yellow oil (11.2 g). This residue was purified by column chromatography (silica gel; n-hexane/ethylacetate 3:1) to yield 9.4 g (97%) of the product as a yellowish oil. MS (ISP): 510.3 (M+NH4)+.

reactant | 2-fluoro-5-iodo-benzylalcohol | 19.8 mM, 5.0 g | FC1=C(CO)C=C(C=C1)I | C7H6FIO
reactant | (R)-4-chlorocarbonyl-3-ethyl-piperazine-1-carboxylic acid tert-butyl ester | 19.8 mM, 5.5 g | C(C)(C)(C)OC(=O)N1C[C@H](N(CC1)C(=O)Cl)CC | C12H21ClN2O3
reactant | sodium hydride | 1.89 mM, 1.3 g | [H-].[Na+]
solvent | dimethylformamide | 70 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | (R)-2-Ethyl-piperazine-1,4-dicarboxylic acid 4-tert-butyl ester 1-(2-fluoro-5-iodo-benzyl) ester | 9.4 g, 97% | FC1=C(COC(=O)N2[C@@H](CN(CC2)C(=O)OC(C)(C)C)CC)C=C(C=C1)I | C19H26FIN2O4
